* Schematics Netlist *



X_X1         0 $N_0001 $N_0002 $N_0003 $N_0004 $N_0001 $N_0005 $N_0003 555D
+  PARAMS: MAXFREQ=3E6
V_V1         $N_0003 0 12V
C_CX         $N_0004 0  10n  
R_RL         0 $N_0002  10k  
C_C1         0 $N_0001  10n  
R_R1         $N_0005 $N_0003  40k  
R_R2         $N_0005 $N_0001  25k  
