* Schematics Netlist *



V_V1         VCC 0 12V
R_R1         $N_0001 VCC  40K  
C_C1         $N_0002 $N_0001  2.2uF  
Q_Q1         $N_0003 $N_0001 $N_0004 Q2N2222
R_R2         0 $N_0001  5K  
R_R4         0 $N_0004  50  
R_R5         0 $N_0005  10k  
R_R3         $N_0003 VCC  800  
C_C3         0 $N_0004  22nF  
V_Vin         $N_0002 0 DC 0V AC 100mV 
C_C2         $N_0003 $N_0005  2.2uF  
