* Schematics Netlist *



C_C1         $N_0001 $N_0002  2.2uF  
C_C2         $N_0003 $N_0004  2.2uF  
Q_Q1         $N_0003 $N_0002 $N_0005 Q2N2222
R_R4         0 $N_0005  100  
C_C3         0 $N_0005  2.2uF  
R_R1         $N_0002 VCC  40K  
R_R2         0 $N_0002  5K  
V_V1         VCC 0 15V
V_Vin         $N_0001 0 DC 0 
+SIN 0 0.05 10000 0 0 0
R_R5         0 $N_0004  10k  
R_R3         $N_0003 VCC  1k  
