* Schematics Netlist *



Q_Q1         $N_0002 $N_0001 $N_0003 Q2N2222
R_R4         0 $N_0003  100  
R_R1         $N_0001 VCC  40K  
R_R2         0 $N_0001  5K  
R_R3         $N_0002 VCC  1k  
V_V1         VCC 0 10V
